US05364871
A suspension of 4-acetyl-2-thiazolecarboxylic acid ethyl ester (2.5 g) in 28% aqueous ammonia solution (40 ml) was stirred for 1 hour at room temperature. The resulting precipitate was collected by filtration to afford 4-acetyl-2-thiazolecarboxamide (1.76 g).

reactant | 4-acetyl-2-thiazolecarboxylic acid ethyl ester | 2.5 g | C(C)OC(=O)C=1SC=C(N1)C(C)=O | C8H9NO3S
reactant | ammonia | 40 ml | N | H3N
product | 4-acetyl-2-thiazolecarboxamide | 1.76 g | C(C)(=O)C=1N=C(SC1)C(=O)N | C6H6N2O2S
